US03934022
27.2 g (0.4 mol) imidazole and 62.8 g (0.2 mol) of (m-chlorophenyl)-(diphenyl)-methyl chloride are heated to 80°C for 4 hours in 150 ml of dry acetonitrile and 50 ml dimethyl formamide. The solvent is then drawn off and the residue is digested with water to remove the imidazole hydrochloride. The residue is taken up in methylene chloride, dried over sodium sulfate, and the viscous oil remaining behind after the distilling off of the solvent is recrystallized from cyclohexane. 52 g (75% of the theory) of 1-[(m-chlorophenyl)-(bisphenyl)-methyl]-imidazole of m.p. 101°C are obtained.

reactant | imidazole | 0.4 mol, 27.2 g | N1C=NC=C1 | C3H4N2
reactant | (m-chlorophenyl)-(diphenyl)-methyl chloride | 0.2 mol, 62.8 g | ClC=1C=C(C=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H14Cl2
reactant | water | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[(m-chlorophenyl)-(bisphenyl)-methyl]-imidazole | ClC=1C=C(C=CC1)C(N1C=NC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17ClN2
